US07915270B2
3-(2-(7-Phenylheptanoyl)oxazol-5-yl)benzenesulfonamide
3-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzenesulfonamide. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (75 mg, 0.113 mmol) and 3-bromobenzenesulfonamide following General Procedure A. Flash chromatography (10-30% EtOAc/hexanes) yielded the title compound as a white solid (55 mg, 91%): 1H NMR (CD3OD, 500 MHz) δ 8.24 (m, 1H), 7.92 (d, 1H, J=8.0 Hz), 7.74 (d, 1H, J=8.0 Hz), 7.64 (t, 1H, J=7.6 Hz), 7.58 (s, 1H), 7.24-7.20 (m, 2H), 7.14-7.13 (m, 3H), 4.88 (ex s, 2H), 3.32-3.31 (m, 1H), 2.58 (t, 2H, J=7.6 Hz), 1.98-1.86 (m, 2H), 1.69-1.60 (m, 2H), 1.38-1.34 (m, 6H), 0.90 (s, 9H), 0.12 (s, 3H), 0.00 (s, 3H); 13C NMR (CDCl3, 100 MHz) δ 165.9, 150.3, 142.7, 130.7, 128.9, 128.8, 128.6, 128.2, 128.2, 128.0, 125.4, 124.7, 122.3, 36.1, 35.6, 31.4, 28.9, 28.8, 28.0, 25.0, 24.9, 17.8, −6.0, −6.1.

reactant | 3-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzenesulfonamide | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C=1C=C(C=CC1)S(=O)(=O)N | C28H40N2O4SSi
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.113 mmol, 75 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 3-bromobenzenesulfonamide | BrC=1C=C(C=CC1)S(=O)(=O)N | C6H6BrNO2S
product | 3-(2-(7-Phenylheptanoyl)oxazol-5-yl)benzenesulfonamide | 55 mg, 91% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C=1C=C(C=CC1)S(=O)(=O)N | C22H24N2O4S
